US08791108B2
Ethyl 6-(2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate
Ethyl 7-chloro-6-(2-ethoxy-2-oxoethyl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (5 g, 15.35 mmol) and sodium iodide (9.20 g, 61.4 mmol) were suspended in acetonitrile (80 mL) and the resulting mixture was heated at 80° C. for 2 h. At this point LCMS indicated completion of reaction and appearance of the desired product. After cooling to rt, the reaction mixture was diluted with ethyl acetate and washed with water and aqueous Na2S2O3, dried (Na2SO4), filtered and concentrated. Then crude product was triturated with ethyl acetate/hexane to afford ethyl 6-(2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (5.7 g, 13.66 mmol, 89% yield) as off white solid. 1H NMR (500 MHz, CDCl3) δ: 7.32 (s, 1H), 4.51 (d, J=7.0 Hz, 2H), 4.25 (d, J=7.0 Hz, 2H), 4.02 (s, 2H), 2.68 (s, 3H), 1.48 (t, J=7.2 Hz, 3H), 1.31 (t, J=7.2 Hz, 3H). LCMS (M+H)=418.2.

reactant | Ethyl 7-chloro-6-(2-ethoxy-2-oxoethyl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 15.35 mmol, 5 g | ClC1=C(C(=NC=2N1N=C(C2)C(=O)OCC)C)CC(=O)OCC | C14H16ClN3O4
reactant | sodium iodide | 61.4 mmol, 9.20 g | [I-].[Na+]
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | Ethyl 6-(2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | C(C)OC(CC=1C(=NC=2N(C1I)N=C(C2)C(=O)OCC)C)=O | C14H16IN3O4
